US06956046B2
<Step 1> Synthesis of methyl 3-formylaminobenzoate
1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.47 g) was added to a mixture of methyl 3-aminobenzoate (1.50 g), formic acid (748 μL) and dichloromethane (15 mL) under cooling with ice-water, and the mixture was stirred at the same temperature for ten minutes under nitrogen atmosphere and stirred at room temperature for fourteen hours. The reaction mixture was poured into ice-water (30 mL) to be separated and the aqueous layer was extracted with dichloromethane. The organic layer was washed with water and an aqueous sodium hydrogencarbonate solution successively, and dried over anhydrous sodium sulfate. After the solvent was removed under reduced pressure, the residue obtained was washed with ether and dried to obtain the titled compound (1.61 g) as crystals.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.47 g | Cl.C(C)N=C=NCCCN(C)C
reactant | methyl 3-aminobenzoate | 1.50 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | formic acid | 748 μL | C(=O)O | CH2O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl 3-formylaminobenzoate | 1.61 g | C(=O)NC=1C=C(C(=O)OC)C=CC1 | C9H9NO3
